US04072696
1-Acetamido-2-amino-4-phenoxybenzene is treated with hydrochloric acid in aqueous methanol to afford 1,2-diamino-4-phenoxybenzene which, in turn, is reacted with methoxycarbonyl isothiocyanate in accordance with the technique set forth in the third paragraph of Example XIV to afford 1,2-bis(3-methoxycarbonyl-2-thioureido)-4-phenoxybenzene.

reactant | 1-Acetamido-2-amino-4-phenoxybenzene | C(C)(=O)NC1=C(C=C(C=C1)OC1=CC=CC=C1)N | C14H14N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-phenoxybenzene | NC1=C(C=C(C=C1)OC1=CC=CC=C1)N | C12H12N2O
